US05863911
1.1: Preparation of ferrocenylacetonitrile
8.00 g (20.8 mmol) of ferrocenylmethyltrimethylammonium iodide (Strem) and 8 g of KCN (123 mmol) are dissolved in 80 ml of water. The mixture is placed in a round-bottomed flask surmounted by a reflux condenser. The mixture is heated at reflux for 2 hours and is then allowed to cool to room temperature. The product is extracted with 3 times 40 ml of ethyl ether. The organic phase is washed first with 2 times 30 ml of water and then dried over magnesium sulfate. After filtration and evaporation, 4.1 g of ferrocenylacetonitrile are collected.

reactant | ferrocenylmethyltrimethylammonium iodide | 20.8 mmol, 8.00 g | [I-].[C-]1(C=CC=C1)C[N+](C)(C)C.[CH-]1C=CC=C1.[Fe+2]
reactant | KCN | 123 mmol, 8 g | [C-]#N.[K+]
solvent | water | 80 ml | O | H2O
product | ferrocenylacetonitrile | [C-]1(C=CC=C1)CC#N.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H6N.C5H5.Fe/c8-6-5-7-3-1-2-4-7;1-2-4-5-3-1;/h1-4H,5H2;1-5H;/q2*-1;+2
